US07638536B2
To a solution of 1.52 g of 3,4,5-trifluorobenzoic acid in 15 ml of dichloromethane, 0.92 ml of oxalyl chloride was added under ice cooling, and the mixture was stirred at the same temperature for 30 minutes and at room temperature for 80 minutes. After DMF was added dropwise, the mixture was stirred at room temperature for 1 hour. To the residue obtained by the evaporation of the solvent under reduced pressure, 20 ml of pyridine, 3.40 ml of 2-tert-butoxyethanol, and 1 fold by spatula of DMAP were added under ice cooling, and the mixture was stirred at room temperature overnight. After the evaporation of the solvent under reduced pressure, the residue was mixed with saturated NaHCO3 aq. extracted with EtOAc, washed with water and brine, and dried over MgSO4. The solvent was evaporated under reduced pressure to obtain 2.10 g of crude 3,4,5-trifluorobenzoic acid 2-tert-butoxyethyl ester. To a solution of 1.03 g of potassium tert-butoxide in 15 ml of THF, 1.50 ml of 2-tert-butoxyethanol was added, and the mixture was stirred for 40 minutes. The reaction solution was cooled to −78° C., a solution of 2.10 g of crude 3,4,5-trifluorobenzoic acid 2-tert-butoxyethylester in 5 ml of THF was added thereto, and the mixture was stirred under ice cooling for 1 hour and at room temperature for 30 minutes. The reaction solution was mixed with saturated aqueous ammonium chloride, extracted with EtOAc, and washed with water and brine, and then dried over MgSO4. The residue obtained by the evaporation of the solvent under reduced pressure was purified by silica gel column chromatography (eluent: hexane-EtOAc=100:1˜20:1) to obtain 2.24 g of 4-(2-tert-butoxyethoxy)-3,5-difluorobenzoic acid 2-tert-butoxyethyl ester.

reactant | potassium tert-butoxide | 1.03 g | CC(C)([O-])C.[K+]
reactant | 3,4,5-trifluorobenzoic acid 2-tert-butoxyethylester | 2.10 g | C(C)(C)(C)OCCOC(C1=CC(=C(C(=C1)F)F)F)=O | C13H15F3O3
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
solvent | 2-tert-butoxyethanol | 1.50 ml | C(C)(C)(C)OCCO | C6H14O2
product | 4-(2-tert-butoxyethoxy)-3,5-difluorobenzoic acid 2-tert-butoxyethyl ester | 2.24 g | C(C)(C)(C)OCCOC(C1=CC(=C(C(=C1)F)OCCOC(C)(C)C)F)=O | C19H28F2O5
